US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (1.52 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.405 g), stirred for 10 minutes and treated with 2-chloromethylbenzofuran (1.4 g). The mixture was stirred at room temperature under argon for 3 hours, diluted with water, and extracted with ethyl acetate. Evaporation of the organic extracts provided crude methyl ester as a liquid. Treatment of a portion of this ester (1.02 g) with potassium hydroxide (0.18 g) in a methanol-water mixture, followed by acidification of the mixture with hydrochloric acid and filtration provided 4-[[2-benzofuranyl)methoxy]-alpha-oxobenzeneacetic acid as a white solid, mp 120° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 1.52 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.405 g | [H-].[Na+]
reactant | 2-chloromethylbenzofuran | 1.4 g | ClCC=1OC2=C(C1)C=CC=C2 | C9H7ClO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[[2-benzofuranyl)methoxy]-alpha-oxobenzeneacetic acid | O1C(=CC2=C1C=CC=C2)COC2=CC=C(C=C2)C(C(=O)O)=O | C17H12O5
